US05405829
5-Amino-1-(4-chloro-1-methyl-5-difluoromethoxy-3-pyrazolyl)-4-nitropyrazole
1.5 g (5.5 mmole) 5-Amino-4-nitro-1-(1-methyl-5-difluoromethoxy-3-pyrazolyl)pyrazole in 30 ml methylene chloride was treated with 0.74 g (5.5 mmole) sulfuryl chloride and the mixture stirred for 10 minute sat room temperature. It was then concentrated and the residue was recrystallised from diisopropyl ether/ethyl acetate. The mother liquor was concentrated and chromatographed (SiO2 /hexane/ethyl acetate 3:1).

reactant | 5-Amino-4-nitro-1-(1-methyl-5-difluoromethoxy-3-pyrazolyl)pyrazole | 5.5 mmole, 1.5 g | NC1=C(C=NN1C1=NN(C(=C1)OC(F)F)C)[N+](=O)[O-] | C8H8F2N6O3
reactant | sulfuryl chloride | 5.5 mmole, 0.74 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-Amino-1-(4-chloro-1-methyl-5-difluoromethoxy-3-pyrazolyl)-4-nitropyrazole | NC1=C(C=NN1C1=NN(C(=C1Cl)OC(F)F)C)[N+](=O)[O-] | C8H7ClF2N6O3
